US07494984B2
1-(2-Hydroxyethyl)-4,5-dihydro-1H-imidazol-2-amine hydrobromide
Reaction of 2-(2-aminoethylamino)ethanol (8.0 g, 76.8 mmol) with cyanogen bromide (8.13 g, 76.8 mmol) as described in the preparation of intermediate 6 gave 13.27 g (82% yield) of the title product as large white prisms (ethanol); mp 112-115° C. 1HNMR 400.1HNMR 400 MHz (DMSO-d6) δ (ppm): 3.36 (2H, t, J=5.3 Hz, CH2), 3.50-3.58 (4H, m, 2×CH2), 3.69 (2H, m, CH2), 4.97 (1H, t, J=5.0 Hz, OH), 7.73 and 7.85 (broad s, NH). Anal. Calcd for C5H11N30.HBr: C, 28.58; H, 5.75, N 20.00. Found: C, 28.79; H, 5.58; N, 20.12.

reactant | 2-(2-aminoethylamino)ethanol | 76.8 mmol, 8.0 g | NCCNCCO | C4H12N2O
reactant | cyanogen bromide | 76.8 mmol, 8.13 g | N#CBr | CBrN
product | 1-(2-Hydroxyethyl)-4,5-dihydro-1H-imidazol-2-amine hydrobromide | 13.27 g, 82% yield | Br.OCCN1C(=NCC1)N | InChI=1S/C5H11N3O.BrH/c6-5-7-1-2-8(5)3-4-9;/h9H,1-4H2,(H2,6,7);1H
